US06248740B1
Production of ethyl 2-[6-[4-[4-(diphenylmethyl)piperazino] butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate
921 mg of ethyl 2-[6-(4-chlorobutyl)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was dissolved in 10 ml of N,N-dimethylformamide; 789 mg of 1-(diphenylmethyl)piperazine, 433 mg of potassium iodide and 520 mg of potassium carbonate were added, followed by stirring at 60° C. for 5 hours. After cooling, ethyl acetate was added; the mixture was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:triethylamine (50:1). The desired fraction was collected, concentrated under reduced pressure and crystallized from ethyl ether-hexane (1:1), collected by filtration, washed with hexane and dried to yield 554 mg of the title compound.

reactant | ethyl 2-[6-(4-chlorobutyl)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 921 mg | ClCCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C16H22ClN3O2
reactant | 1-(diphenylmethyl)piperazine | 789 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | potassium iodide | 433 mg | [I-].[K+]
reactant | potassium carbonate | 520 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[6-[4-[4-(diphenylmethyl)piperazino] butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 554 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2 | C33H41N5O2
